US09428503B2
Intermediate B1: 8-Bromo-1-(cis-3-methoxycyclobutyl)-3-methylimidazo[4,5-c]quinolin-2-one
Methyl iodide (11.49 mL, 183.81 mmol) was added to a mixture of 8-bromo-1-(cis-3-methoxycyclobutyl)-3H-imidazo[4,5-c]quinolin-2-one (32 g, 91.90 mmol), sodium hydroxide (5.51 g, 137.85 mmol) and tetrabutylammonium bromide (2.94 g, 9.19 mmol) in DCM (400 mL) and water (300 mL) and the resulting mixture stirred at r.t. for 2 h. The DCM was removed in vacuo and the precipitate collected by filtration, washed with water (200 mL) and dried under vacuum to afford the desired material (25.00 g, 75%) as a pale yellow solid. NMR Spectrum: 1H NMR (400 MHz, DMSO-d6) δ 2.72-2.86 (2H, m), 2.9-3.08 (2H, m), 3.22 (3H, s), 3.49 (3H, s), 3.85-3.89 (1H, m), 4.88-5.06 (1H, m), 7.74 (1H, dd), 7.98 (1H, d), 8.50 (1H, d), 8.92 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=362, 364.

reactant | Methyl iodide | 183.81 mmol, 11.49 mL | CI | CH3I
reactant | 8-bromo-1-(cis-3-methoxycyclobutyl)-3H-imidazo[4,5-c]quinolin-2-one | 91.90 mmol, 32 g | BrC1=CC=2C3=C(C=NC2C=C1)NC(N3[C@@H]3C[C@@H](C3)OC)=O | C15H14BrN3O2
reactant | sodium hydroxide | 137.85 mmol, 5.51 g | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 9.19 mmol, 2.94 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
solvent | water | 300 mL | O | H2O
product | 8-Bromo-1-(cis-3-methoxycyclobutyl)-3-methylimidazo[4,5-c]quinolin-2-one | 25.00 g, 75% | BrC1=CC=2C3=C(C=NC2C=C1)N(C(N3[C@@H]3C[C@@H](C3)OC)=O)C | C16H16BrN3O2
